US07893352B2
2,4,7-triphenyl-1,10-phenanthroline (mono-PBP)
This yellow compound was prepared in a process analogous to the synthesis of PBP in which 2 equivalents of phenyllithium were used for each equivalent of bathophenanthroline. The clean product was obtained after running chromatography in a silica/mixture of methanol/CH2Cl2 (1:1) column with a yield of 75 percent. 1H NMR (500 MHz, CDCl3), ppm: 9.26 (d, J=7.7 Hz, 1H), 8.37 (d, J=7.0 Hz, 2H), 8.04 (s, 1H), 7.82 (m, 2H), 7.59-7.45 (m, 14H). Analysis for mono-PBP.⅛CH2Cl2. Found: C, 86.10, H, 4.50, N, 6.79. Calculated: C, 86.33, H, 4.87, N, 6.68.

reactant | phenyllithium | 2 equivalents | C1(=CC=CC=C1)[Li]
reactant | bathophenanthroline | C1=CC=C(C=C1)C2=C3C=CC4=C(C=CN=C4C3=NC=C2)C5=CC=CC=C5 | C24H16N2
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | 2,4,7-triphenyl-1,10-phenanthroline | yield of 75 percent | C1(=CC=CC=C1)C1=NC2=C3N=CC=C(C3=CC=C2C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H20N2
